US04426385
Part C: Preparation of 3-(4-[4-Chloro-5,6,7,8-tetrahydro-1-naphthoxy]-3,5-dimethylphenyl)-1-(2-chlorobenzoyl) urea
To a solution containing 3.0 g of 4-(4-chloro-5,6,7,8-tetrahydro-1-naphthoxy)-3,5-dimethylaniline in 40 mL of toluene under an atmosphere of nitrogen and heated to 70° C. (internal) was slowly added a solution containing 2.7 g of 2-chlorobenzoyl isocyanate in 5 mL of toluene. The resulting mixture was heated at 70° C. for 1/2 hour. The reaction mixture was cooled to 0° C. and filtered. The collected solid was washed with toluene and then hexane. It was dried under vacuum to afford 3.58 g of a white solid, mp. 224°-226° C. NMR (DMSO-d6): 1.7-2.2 (m, 10H, contains singlet at 2.03), 2.7-3.0 (m, 4H), 6.07 (d, J=9 Hz, 1H), 7.07 (d, J=9 Hz, 1H), 7.07 (d, J=9 Hz, 1H), 7.4-7.7 (m, 4H), 10.38 (S, 1H), 11.20 (S, 1H).

reactant | 4-(4-chloro-5,6,7,8-tetrahydro-1-naphthoxy)-3,5-dimethylaniline | 3.0 g | ClC1=CC=C(C=2CCCCC12)OC1=C(C=C(N)C=C1C)C | C18H20ClNO
reactant | 2-chlorobenzoyl isocyanate | 2.7 g | ClC1=C(C(=O)N=C=O)C=CC=C1 | C8H4ClNO2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-[4-Chloro-5,6,7,8-tetrahydro-1-naphthoxy]-3,5-dimethylphenyl)-1-(2-chlorobenzoyl) urea | 3.58 g | ClC1=CC=C(C=2CCCCC12)OC1=C(C=C(C=C1C)NC(NC(C1=C(C=CC=C1)Cl)=O)=O)C | C26H24Cl2N2O3
